US04336264
5-(3-(TRIFLUOROMETHYL)PHENYL)-3-AMINOISOXAZOLE
Hydroxylamine hydrochloride (1.6 grams), and sodium hydroxide (1.6 grams) were dissolved in 32 ml. of a 1:1 mixture of water and methanol at 0°-5° C. 3-(3-(Trifluoromethyl)phenyl)propiolonitrile (2.8 grams) in 10 ml. of methanol was added portionwise, and the reaction mixture was stirred overnight (about 18 hours) at 25° C. Solvent was evaporated; water was added to the residue and the product extracted with ether, washed with water, dried and evaporated, yield 1.4 grams. The identity of the desired product was confirmed by NMR.

reactant | Hydroxylamine hydrochloride | 1.6 grams | Cl.NO
reactant | sodium hydroxide | 1.6 grams | [OH-].[Na+]
reactant | water | O | H2O
reactant | 3-(3-(Trifluoromethyl)phenyl)propiolonitrile | 2.8 grams | FC(C=1C=C(C=CC1)C#CC#N)(F)F | C10H4F3N
solvent | methanol | CO | CH4O
product | 5-(3-(TRIFLUOROMETHYL)PHENYL)-3-AMINOISOXAZOLE | FC(C=1C=C(C=CC1)C1=CC(=NO1)N)(F)F | C10H7F3N2O
